US08957074B2
Following general N—C coupling procedure 1, (R)-3-(6-amino-pyridin-3-yl)-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester was combined with 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide which gave (R)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester as a white solid (0.175 g, 0.275 mmol) in 64% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.47 (s, 9H) 1.55-1.68 (m, 2H) 1.68-1.85 (m, 3H) 1.88-2.18 (m, 8H) 2.50-2.68 (m, 2H) 3.13-3.21 (m, 6H) 3.21-3.32 (m, 1H) 3.37-3.58 (m, 1H) 3.61-3.72 (m, 1H) 3.75 (d, J=8.53 Hz, 2H) 3.86 (d, J=8.53 Hz, 2H) 4.72-4.95 (m, J=8.91, 8.91, 8.78, 8.53 Hz, 1H) 6.48 (s, 1H) 8.14 (dd, J=9.29, 2.76 Hz, 1H) 8.31 (br. s., 1H) 8.53 (d, J=9.54 Hz, 1H) 8.76 (s, 1H). MS m/z 605.5 (M+H)+.

reactant | (R)-3-(6-amino-pyridin-3-yl)-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@]2(CN(C(O2)=O)C=2C=NC(=CC2)N)CCC1 | C17H24N4O4
reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | (R)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester | 0.275 mmol, 0.175 g, 64% yield | C(C)(C)(C)OC(=O)N1C[C@@]2(CN(C(O2)=O)C=2C=NC(=CC2)NC=2N=CC3=C(N2)N(C(=C3)C(N(C)C)=O)C3CCCC3)CCC1 | C31H40N8O5
